US07199150B2
Subsequently, to a suspension of (2R)-2-amino-2-methyl-4-(1-ethylpyrrol-2-yl)butan-1-ol ½ D-(−)tartrate (55.5 mg, 0.16 mmol) in dichloromethane (1.6 ml) were added successively di-t-butyl dicarbonate (0.17 g, 0.78 mmol), triethylamine (0.22 ml, 1.58 mmol) and 4-dimethylaminopyridine (3.0 mg, 0.025 mmol) with stirring, and the resulting mixture was stirred at room temperature for 20minutes. After stirring, water was added to the reaction mixture, and the resulting mixture was concentrated in vacuo. The residue obtained was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethylacetate (1:1) as the eluent to afford (4R)-4-methyl-4-[2-(1-ethylpyrrol-2-yl)ethyl]-1,3-oxazolidin-2-one (18.0 mg, yield: 58%).

reactant | (2R)-2-amino-2-methyl-4-(1-ethylpyrrol-2-yl)butan-1-ol | 0.16 mmol, 55.5 mg | N[C@@](CO)(CCC=1N(C=CC1)CC)C | C11H20N2O
reactant | di-t-butyl dicarbonate | 0.78 mmol, 0.17 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.58 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 1.6 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.025 mmol, 3.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (4R)-4-methyl-4-[2-(1-ethylpyrrol-2-yl)ethyl]-1,3-oxazolidin-2-one | 18.0 mg, yield: 58% | C[C@@]1(NC(OC1)=O)CCC=1N(C=CC1)CC | C12H18N2O2
